US09259426B2
Synthesis of 4-(N-butylamino)-6-(4-fluorophenyl)-quinazoline
This compound was synthesized from 4-chloro-6-(4-fluorophenyl)-quinazoline and n-butylamine in 68% yield, using the procedure described for example 37. The product was characterized by its mass spectrum as follows: MS (m/z): 296 ([M+H]+, 100).

reactant | 4-chloro-6-(4-fluorophenyl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C14H8ClFN2
reactant | n-butylamine | C(CCC)N | C4H11N
product | 4-(N-butylamino)-6-(4-fluorophenyl)-quinazoline | 68% yield | C(CCC)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C18H18FN3
